US09403755B2
(S)-6-Methyl-hept-5-en-2-ol. [Small Scale, e.g., ca. 1 g Final Product]
3-Methylbut-2-enylmagnesium chloride, 0.50 M in THF (100 mL, 50 mmol) was cooled to 0° C., CuI (952 mg, 5.0 mmol), then (S)-2-methyl-oxirane (1.752 mL, 25.0 mmol) in anhydrous THF (12 mL) was slowly added to the stirred reaction mixture via syringe pump at a rate of 16 mL/h over 45 min to give a dark suspension which was stirred at 0° C. under an Argon atm for 1 h, then allowed to slowly warm to RT over several h. After stirring at RT for 18 h the reaction mixture was poured into sat aqueous NH4Cl (75 mL), the mixture was extracted with Et2O (3×100 mL), the organic extracts were combined, washed with water (100 mL), brine (100 mL), dried with MgSO4, and solvent was evaporated in vacuo (30 mm Hg) at 25° C. to give an oil which was purified by SiO2 flash chromatography to give the title compound as an oil in 2 fractions (2.2 g, 69%). H1 NMR (CDCl3): • 5.14 (m, 1H), 3.82 (m, 1H), 3.08 (m, 1H), 1.69 (s, 3H), 1.62 (s, 2H), 1.48 (m, 2H), 1.19 (d, 3H, J=6 Hz).

reactant | 3-Methylbut-2-enylmagnesium chloride | CC(=CC[Mg]Cl)C
reactant | (S)-2-methyl-oxirane | 25.0 mmol, 1.752 mL | C[C@@H]1OC1 | C3H6O
reactant | NH4Cl | 75 mL | [NH4+].[Cl-]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | CuI | 5.0 mmol, 952 mg | [Cu]I
solvent | THF | 50 mmol, 100 mL | C1CCOC1 | C4H8O
product | (S)-6-Methyl-hept-5-en-2-ol | CC(=CCC[C@H](C)O)C | C8H16O
